2141-04-09 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-4-7**] 05:30 PM
   Azithromycin - [**2141-4-8**] 04:22 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-4-8**] 03:21 PM
   Heparin Sodium (Prophylaxis) - [**2141-4-8**] 10:00 PM
   Lorazepam (Ativan) - [**2141-4-9**] 02:35 AM
   Fentanyl - [**2141-4-9**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-9**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 75 (75 - 102) bpm
   BP: 130/63(79) {120/55(69) - 144/72(85)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,906 mL
                  PO:
                                                                    340 mL
                  TF:
   IVF:
                                                                  1,566 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    350 mL
   Urine:
                                                                    920 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    986 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.31/70/69/29/5
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   8.9 g/dL
   213 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   40 mg/dL
   102 mEq/L
   139 mEq/L
   28.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2141-4-7**]  04:43 PM
                             [**2141-4-7**]  07:42 PM
                             [**2141-4-7**]  09:16 PM
                             [**2141-4-8**]  12:06 AM
                             [**2141-4-8**]  05:46 AM
                             [**2141-4-8**]  08:30 AM
                             [**2141-4-8**]  12:15 PM
                             [**2141-4-9**]  05:00 AM
   WBC
   8.7
   7.7
   8.4
   Hct
   29.5
   29.0
   28.8
   Plt
   167
   176
   176
   Cr
   2.2
   1.9
   1.8
   TCO2
   29
   38
   39
   38
   37
   Glucose
   [**Telephone/Fax (3) 5475**]
   Other labs: PT / PTT / INR:13.4/26.5/1.1, Differential-Neuts:90.1 %,
   Lymph:7.1 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   86 yo Iranian (farsi speaking) male with h/o COPD (on home o2 (uses
   2-3h qdaily of home o2 overall), HTN, restless leg syndrome, BPH
   transferred for hypercarbic respiratory failure.
   # Acute on Chronic Hypercarbic repiratory failure:  Improving.
   Patient
s mental status is improving toward baseline as patient is
   stable on 3L NC.  Patient
s baseline PCO2 is around 70-80 likely.
   - Continue BiPap as needed
   - Recheck ABG
   - Solumedrol 125mg IV q6hrs
   - Continue Azithromycin 500mg IV q24
   - Narcan gtt with intermittent Fentanyl boluses
   # Acute on Chronic Renal Failure - Pre renal.  Improved with IVFs to
   1.9  Admitted with Cr 2.6m baseline Cr 1.8-2.0. History of poor po
   intake is suspicous for pre-renal etiology.
   - d/c  foley
   - Continue NS @ 100cc/hr while NPO
   - Continue Tamsulosin and Finasteride
   - hold home lasix
   - follow lytes/chemistries
   # Restless Leg syndrome - controlled on home dose methadone,
   - give acute respiratory compromise and question of hypoventilation,
   will hold standing methadone for now and consider prn fentanyl
   # Anemia, microcytic - has h/o thalessemia - HCT 31.2
   - Monitor
   #. FEN
 NPO for now
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx with SQ Heparin, PPI
   -Bowel regimen with miralax
   -Pain management with prn Fentanyl as necessary, watch for respiratory
   compromise
   .
   #. Code - full code
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-4-7**] 10:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-04-09 10:07:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   d/c Narcan Drip in AM. Treating severe RLS with intermittent fentanyl.
   Ativan overnight for agitation
   History obtained from Family / [**Hospital 380**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2141-4-7**] 05:30 PM
   Azithromycin - [**2141-4-8**] 04:22 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-4-9**] 02:35 AM
   Fentanyl - [**2141-4-9**] 08:00 AM
   Lansoprazole (Prevacid) - [**2141-4-9**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2141-4-9**] 08:23 AM
   Other medications:
   dulcolax, senna, colace, nebs, solumedrol 125 q8h, cyanocobalamin,
   finasteride, tamsolosin, miralax, ocuvite, prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-9**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 100 (75 - 103) bpm
   BP: 160/69(91) {120/55(69) - 160/72(91)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,906 mL
                                                                    300 mL
   PO:
                                                                    340 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,566 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    525 mL
   Urine:
                                                                    920 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    986 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.31/70/69/29/5
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Diminished: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Increased
   Labs / Radiology
   8.9 g/dL
   176 K/uL
   213 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   40 mg/dL
   102 mEq/L
   139 mEq/L
   28.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2141-4-7**]  04:43 PM
                             [**2141-4-7**]  07:42 PM
                             [**2141-4-7**]  09:16 PM
                             [**2141-4-8**]  12:06 AM
                             [**2141-4-8**]  05:46 AM
                             [**2141-4-8**]  08:30 AM
                             [**2141-4-8**]  12:15 PM
                             [**2141-4-9**]  05:00 AM
   WBC
   8.7
   7.7
   8.4
   Hct
   29.5
   29.0
   28.8
   Plt
   167
   176
   176
   Cr
   2.2
   1.9
   1.8
   TCO2
   29
   38
   39
   38
   37
   Glucose
   [**Telephone/Fax (3) 5475**]
   Other labs: PT / PTT / INR:13.4/26.5/1.1, Differential-Neuts:90.1 %,
   Lymph:7.1 %, Mono:1.9 %, Eos:0.8 %, Lactic Acid:1.2 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   86 yo Iranian (farsi speaking) male with h/o COPD (on home o2 (uses
   2-3h qdaily of home o2 overall), HTN, restless leg syndrome, BPH
   transferred for hypercarbic respiratory failure.
   # Acute on Chronic Hypercarbic repiratory failure:   Patient much more
   awake today.  Patient is on home O2 and has had previosu Bicarbs around
   33 per chem 7s.  Patient's change in mental status related to
   hypercarbia.  Patient's decreased ventilation is from decreased
   respiratory drive from increased NC oxygen, narcotics, and possibly
   from constipation.  Patient
s CXR w/o acute changes.
   - Follow ABG qd
    - Will stop Solumedrol 125mg IV q6hrs
    - Continue Azithromycin po
    - Avoid sedating medications.  Restart methadone at 15 [**Hospital1 **].
   # Acute on Chronic Renal Failure - Pre renal likely.  Admitted with Cr
   2.6m baseline Cr 1.8-2.0. History of poor po intake is suspicous for
   pre-renal etiology.  There was concern that patient may be retaining
   overnight secondary to BPH and had foley placed.  Now Creat down to 1.8
   (baseline)
   - Continue foley
   - Continue Tamsulosin and Finasteride
    - hold home lasix
    - follow lytes/chemistries
   # Restless Leg syndrome - controlled on home dose methadone, encourage
   more activity, OOB
   # Anemia, microcytic - has h/o thalessemia - HCT 31.2
   #. FEN - Regular diet
   #. Access - PIV
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2141-4-7**] 10:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes